US05281593
v) 7-[2-(E)-Cyanoethenyl]indole
Sodium hydride, 60% dispersion in mineral oil (0.10 g, 2.5 mmol) was added in portions over 10 minutes to a stirred solution of diethyl cyanomethylphosphonate (0.44 g, 2.5 mmol) in tetrahydrofuran (10 ml) cooled in ice. The mixture was stirred for 15 minutes then a solution of 7-indole carboxaldehyde (0.30 g, 2.1 mmol) in tetrahydrofuran (2 ml) was added dropwise. The mixture was stirred for 30 minutes, diluted with ethyl acetate, washed with water, dried and evaporated. The residue was chromatographed on silica in ethyl acetate-hexane (1:3) to give the product.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 2.5 mmol, 0.44 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 7-indole carboxaldehyde | 2.1 mmol, 0.30 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(E)-Cyanoethenyl]indole | C(#N)/C=C/C=1C=CC=C2C=CNC12 | C11H8N2
